US06261738B1
18.1: 2,2,2-Trifluoro-1-(3,4-dimethoxyphenyl)-ethanone
13.8 g (0.10 mol) of 1,2-dimethoxybenzene and 12.2 g (0.10 mol) of 4-dimethylaminopyridine are mixed in 75 ml of CH2Cl2 and cooled in an ice bath. To the solution are added dropwise 21.0 g (0.10 mol) of trifluoroacetic anhydride, followed by 32.0 g (0.24 mol) of AlCl3 by portions. The reaction mixture is stirred at room temperature overnight, poured into ice water, and extracted with CH2Cl2. The organic phase is washed with water, dried over MgSO4, and concentrated. The residue is purified by flash chromatography on silica gel with ethyl acetate and hexane (1:9), yielding 2.9 g of product as white solid.

reactant | 1,2-dimethoxybenzene | 0.10 mol, 13.8 g | COC1=C(C=CC=C1)OC | C8H10O2
reactant | trifluoroacetic anhydride | 0.10 mol, 21.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | AlCl3 | 0.24 mol, 32.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
catalyst | 4-dimethylaminopyridine | 0.10 mol, 12.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-(3,4-dimethoxyphenyl)-ethanone | 2.9 g | FC(C(=O)C1=CC(=C(C=C1)OC)OC)(F)F | C10H9F3O3
